US05137895
N-(3-Hydroxy-1-azabicyclo[2.2.2]oct-3-ylmethyl)-4-[(methylsulfonyl)amino]-benzamide hemihydrate
A solution/suspension of 4-[(methanesufonyl)amino]benzoic acid (1.62 g, 7.5 mmol) in anhydrous tetrahydrofuran (6 ml) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.38 g, 8.5 mmol), stirred for 45 minutes, and degassed under a stream of nitrogen over 15 minutes. A solution of 3-hydroxy-1-azabicyclo[2.2.2]oct-3-ylmethanamine (1.56 g, 10 mmol) in anhydrous tetrahydrofuran (6 mL) was added, and the mixture soon became cloudy. After 18 hours at room temperature and 90 minutes at 50° C. the mixture was concentrated in vacuo and the residue was triturated from acetonitrile. The foamy solid thus obtained was filtered through alumina (eluted with 1:1 methanol/tetrahydrofuran) and the filtrate was concentrated in vacuo and recrystallized from 2-propanol/ether to afford 1.92 g (71%) of the title compound as a hygroscopic voluminous colorless solid (water soluble); mp 123°-125° C. (foam).

reactant | 4-[(methanesufonyl)amino]benzoic acid | 7.5 mmol, 1.62 g | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
reactant | 1,1'-carbonyldiimidazole | 8.5 mmol, 1.38 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-hydroxy-1-azabicyclo[2.2.2]oct-3-ylmethanamine | 10 mmol, 1.56 g | OC1(CN2CCC1CC2)CN | C8H16N2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-(3-Hydroxy-1-azabicyclo[2.2.2]oct-3-ylmethyl)-4-[(methylsulfonyl)amino]-benzamide hemihydrate | 1.92 g, 71% | O.OC1(CN2CCC1CC2)CNC(C2=CC=C(C=C2)NS(=O)(=O)C)=O.OC2(CN1CCC2CC1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/2C16H23N3O4S.H2O/c2*1-24(22,23)18-14-4-2-12(3-5-14)15(20)17-10-16(21)11-19-8-6-13(16)7-9-19;/h2*2-5,13,18,21H,6-11H2,1H3,(H,17,20);1H2
